US08541585B2
(2) Serotonin 5-HT2A Receptor Binding Assay
5-HT2A receptor binding assay was performed in reference to a method described by Hirose et al. (Japan. J. Pharmacol., 53, 321-329, 1990). After a reaction in a total volume of 200 μL of 50 mM Tris-HCl (pH=7.6) buffer solution containing 50 μL of [3H]-ketanserin (final concentration 1 nM), 1 μL of test drug in DMSO, and 149 μL of human 5-HT2A receptor-expressing CHO cell membrane sample, human 5-HT2A receptor binding activity of [3H]-ketanserin was measured. The reaction solution let stand for 15 minutes at 37° C., and then it was quickly added on a glass fiber filter plate (Multiscreen FB, Millipore inc.) coated with 0.05% Brij 35 and filtered under reduced pressure. The glass fiber filter was washed with 200 μL of ice-cooled 50 mM Tris-HCl (pH=7.6) twice, repeatedly filtered under reduced pressure, and then transferred to a vial containing 4 mL of Ecoscint A (National Diagnostics inc.). The residual radioactivity on the glass fiber filter was measured by a liquid scintillation counter. Nonspecific binding was measured in the presence of 10 μM of MDL-100907, and [3H]-ketanserin binding inhibition rate in the presence of 1 nM or 10 nM of test drug was determined. The results are shown in Tables 8 to 13.

reactant | Tris-HCl | 50 mM, pH=7.6 | C(C(CO)(CO)N)O.Cl
reactant | [3H]-ketanserin | 50 μL | [3H]C([3H])(C([3H])([3H])N1C(=O)C=2C=CC=CC2NC1=O)N3CCC(CC3)C(=O)C=4C=CC(=CC4)F | C22H22FN3O3
reactant | DMSO | CS(=O)C | C2H6OS
product | Serotonin | C1=CC2=C(C=C1O)C(=CN2)CCN | C10H12N2O
